US04420487
Preparation of 2-(2-Adamantanyl)-5-Chloro-6-Sulfamyl-1H-Benzimidazole Hemihydrate
A mixture of 2.95 g of 2-amino-4-chloro-5-sulfamylaniline dihydrochloride and 2.70 g of 1-adamantanecarboxylic acid was ground together and heated at 190°-200° for 5 hours. The dark solid was dissolved in 500 ml of methanol, the methanol brought to a boil, charcoal added, boiling continued for five minutes, and the suspension then filtered through two sheets of filter paper, and then through Celite. Concentration in vacuo provided a solid which was then added to 100 ml of concentrated ammonium hydrozide and stirred for twenty minutes. The crude product was collected by filtration and recrystallized from acetonitrile to provide 0.5 g of colorless crystals, m.p. 207°-210°.

reactant | 2-amino-4-chloro-5-sulfamylaniline dihydrochloride | 2.95 g | Cl.Cl.NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O
reactant | 1-adamantanecarboxylic acid | 2.70 g | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | charcoal | C | CH4
solvent | methanol | 500 ml | CO | CH4O
product | 2-(2-Adamantanyl)-5-Chloro-6-Sulfamyl-1H-Benzimidazole Hemihydrate | 0.5 g | O.C12C(C3CC(CC(C1)C3)C2)C2=NC3=C(N2)C=C(C(=C3)Cl)S(N)(=O)=O.C32C(C1CC(CC(C3)C1)C2)C2=NC1=C(N2)C=C(C(=C1)Cl)S(N)(=O)=O | InChI=1S/2C17H20ClN3O2S.H2O/c2*18-12-6-13-14(7-15(12)24(19,22)23)21-17(20-13)16-10-2-8-1-9(4-10)5-11(16)3-8;/h2*6-11,16H,1-5H2,(H,20,21)(H2,19,22,23);1H2
